US07772246B2
Preparation of 6-bromo-2-methylimidazo[1,2-a]pyrimidine (B-8-2)
To a solution of 5-bromopyrimidin-2-amine (170.0 g, 0.98 mol) in i-PrOH (2 L) and DMF (500 mL) was added 1-chloropropan-2-one (606 g, 6.53 mol), then the mixture was stirred at 10° C. for 16 h. TLC (petroleum ether:ethyl acetate=1:2) showed the reaction was complete. The reaction mixture was quenched by Na2CO3 and filtered. The filtrate was concentrated in vacuo and the residue was purified by column chromatography (petroleum ether:ethyl acetate=5:1) to afford compound B-8-2 (10.0 g, 4.8%) as a yellow solid.

reactant | 5-bromopyrimidin-2-amine | 0.98 mol, 170.0 g | BrC=1C=NC(=NC1)N | C4H4BrN3
reactant | 1-chloropropan-2-one | 6.53 mol, 606 g | ClCC(C)=O | C3H5ClO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | i-PrOH | 2 L | CC(C)O | C3H8O
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
product | 6-bromo-2-methylimidazo[1,2-a]pyrimidine | BrC=1C=NC=2N(C1)C=C(N2)C | C7H6BrN3
